US04316892
Preparation of tert-butyloxycarbonyl-phenylalanylmethyl-γ-aminobutyrate
The title compound was prepared in the idential manner as in Example 1 from 2.65 of Boc-Phe, 1.69 g (11.0 mmole) of methyl-γ-aminobutyrate hydrochloride salt, 1.25 ml of N-methylmorpholine and 2.27 g (11.0 mmole) of dicyclohexylcarbodiimide in 25 ml of methylene chloride, reacted for 24 hours, to provide a quantitative yield of product (TLC in the above solvent system, Rf 0.84).

reactant | Boc-Phe | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | methyl-γ-aminobutyrate hydrochloride salt | 11.0 mmole, 1.69 g | Cl.COC(CCCN)=O
reactant | N-methylmorpholine | 1.25 ml | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 11.0 mmole, 2.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | tert-butyloxycarbonyl-phenylalanylmethyl-γ-aminobutyrate | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)COC(CCCN)=O | C19H28N2O5
